US07851411B2
2. (2Z)-3-Amino-2-cyano-4-ethyl-2-hexenoyl chloride
250 ml toluene were cooled to 0° C. and 40 g (0.4 mol) of phosgene were added. After warming up to 25° C., 13.8 g (0.1 mol) of 3-amino-2-cyano-4-ethyl-2-hexene in toluene were added. The reaction mixture was heated at 70° C. for 4 h, then the unreacted phosgene was removed by blowing out with dry N2. After cooling to 25° C. the product precipitated. Filtration and washing with diethyl ether gave 12 g (60% of theory) of the title compound as a yellow solid (m. p. 102° C.).

reactant | phosgene | 0.4 mol, 40 g | C(=O)(Cl)Cl | CCl2O
reactant | 3-amino-2-cyano-4-ethyl-2-hexene | 0.1 mol, 13.8 g | NC(=C(C)C#N)C(CC)CC | C9H16N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | (2Z)-3-Amino-2-cyano-4-ethyl-2-hexenoyl chloride | N\C(=C(/C(=O)Cl)\C#N)\C(CC)CC | C9H13ClN2O
